US04128663
A solution of 50.0 g. (0.31 mole) of 3,4-dichloroaniline in 100 ml. of cyclopentene oxide is refluxed for 7 days. The solution is evaporated and the residue triturated with 250 ml. of petroleum ether (b.p. 30°-60° C.) five times to remove unreacted 3,4-dichloroaniline. The residue is treated with excess ethereal hydrogen chloride and the resulting crude hydrochloride salt is recrystallized twice from a methanol/ethyl ether mixture to give trans-2-(3,4-dichloroanilino)cyclopentanol, 38.7 g. (44% yield), m.p. 167°-168° C. The ultraviolet, infrared and nuclear magnetic resonance spectra are consistent with the structure of this product.

reactant | 3,4-dichloroaniline | 0.31 mole | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | cyclopentene oxide | C12C(CCC1)O2 | C5H8O
product | trans-2-(3,4-dichloroanilino)cyclopentanol | 44% yield | ClC=1C=C(N[C@H]2[C@@H](CCC2)O)C=CC1Cl | C11H13Cl2NO
